US05145865
(2) 1-(4-Ethylphenyl)-4-hydroxymethyl-2-pyrrolidone
1-(4-Ethylphenyl)-5-oxo-3-pyrrolidinecarboxylic acid (5.00 g) is suspended in carbon tetrachloride (15 ml) and thereto is added thionyl chloride (2.32 ml). The reaction mixture is heated with stirring under refluxing for 1 hour and concentrated under reduced pressure. The residue is dissolved in tetrahydrofuran (25 ml) and thereto is added dropwise a solution of sodium boron hydride (1.61 g) in dimethylformamide (about 16 ml) under ice-cooling. The mixture is further stirred for 1 hour. Methanol (13 ml) and conc. hydrochloric acid (1.87 ml) are successively added dropwise into the reaction mixture and the mixture is concentrated under reduced pressure. Ethyl acetate (120 ml) is added to the residue and the mixture is washed with water three times, dried over anhydrous magnesium sulfate, and then concentrated again under reduced pressure. To this residue is added a mixed solvent (about 50 ml) of ethyl acetate/hexane [1:20 (v/v)]. The mixture is allowed to stand and the precipitated crystal is collected by filtration to give the desired product (3.81 g).

reactant | 1-(4-Ethylphenyl)-5-oxo-3-pyrrolidinecarboxylic acid | 5.00 g | C(C)C1=CC=C(C=C1)N1CC(CC1=O)C(=O)O | C13H15NO3
reactant | thionyl chloride | 2.32 ml | S(=O)(Cl)Cl | Cl2OS
solvent | carbon tetrachloride | 15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(4-Ethylphenyl)-4-hydroxymethyl-2-pyrrolidone | 3.81 g | C(C)C1=CC=C(C=C1)N1C(CC(C1)CO)=O | C13H17NO2
